US09388189B2
(S)-2-(1-((6-Amino-5-(3-amino-5-methoxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
To a solution of (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (150 mg, 0.34 mmol) were added (3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (86 mg, 0.34 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (27 mg, 0.03 mmol) and 340 μl of a 2M aqueous solution of cesium carbonate in dioxane (2 ml). The mixture was stirred under argon atmosphere at 100° C. for 18 hours and then diluted with ethyl acetate. The resulting solution was washed with water and brine, dried over magnesium sulphate, filtered and the solvents were removed under reduced pressure. The crude was purified by reverse phase using SP1® Purification System to give 87 mg (52% yield) of the title compound as a white solid. Purity 98%.

reactant | (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.34 mmol, 150 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | 3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 0.34 mmol, 86 mg | COC=1C=C(N)C=C(C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO3
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-(1-((6-Amino-5-(3-amino-5-methoxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 87 mg, 52% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C2=CC(=CC(=C2)OC)N | C26H26N8O2
